US06242601B1
A solution of 0.35 g of 5-methyl-thiazole-2-sulfonic acid [2-(3-benzyloxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide dissolved in CH2Cl2 (40 ml) is cooled to 0° C. and treated dropwise with 4.8 ml of a 1M solution of TiCl4 in CH2Cl2. The orange solution is stirred at 0° C. for 0.5 h until the starting material was consumed according to TLC analysis (Me2Cl2/EtOAc: 4/1). The reaction solution was then poured on ice, the product extracted into Me2Cl2 the organic layer dried over Na2SO4 and the solvent removed in vacuo. The residue was washed with ether/hexane to give 5-methyl-thiazole-2-sulfonic acid [2-(3-hydroxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide as an off-white crystalline solid. ISN mass spectrum, m/e 499.1 (M−1 calculated for C22H20N4O6S2: 499).

reactant | 5-methyl-thiazole-2-sulfonic acid [2-(3-benzyloxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | 0.35 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC(=C(C(=N1)NS(=O)(=O)C=1SC(=CN1)C)OC1=C(C=CC=C1)OC)OC | C29H26N4O6S2
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | 5-methyl-thiazole-2-sulfonic acid [2-(3-hydroxy-phenyl)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | OC=1C=C(C=CC1)C1=NC(=C(C(=N1)NS(=O)(=O)C=1SC(=CN1)C)OC1=C(C=CC=C1)OC)OC | C22H20N4O6S2
